US07112582B2
Preparation of 2-(2-Carboxy-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-en-6-ylidenemethyl)-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid ethyl ester
2-Formyl-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid ethyl ester (480 mg, 2 mmol) was dissolved in 20 ml acetonitrile and magnesium bromide etherate (516 mg, 2 mmol) was then added under N2 atmosphere. The mixture was stirred at 23° C. for half an hour. 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (770 mg, 2 mmol) in 20 ml THF was then injected all at once and the mixture was immediately cooled to −20° C. Triethylamine (1 ml) was then injected and the mixture stirred at −20° C. for 3 hrs. Then acetic anhydride (0.4 ml) was injected and the mixture was stirred at 0° C. for 48 hrs. The reaction media was then diluted with 200 ml ethyl acetate and washed sequentially with 50 ml 5% citric acid, 50 ml saturated sodium bicarbonate, and 50 ml brine. The organic layer was then dried over sodium sulfate. Filter, concentrate, and flash column chromatograph using 20% ethyl acetate in hexane gave 690 mg (50%, yield) product. A fraction of this product (456 mg, 0.69 mmol) was then dissolved in 15 ml THF and 15 ml aqueous phosphate buffer (pH=6.5). The mixture was then subjected to 40 psi hydrogen for two hrs with 0.5 gram 10% palladium on carbon. Then it was filtered through a pad of celite and concentrated in vacuo to remove most of the THF. The solution was then cooled to zero degree and basified to pH=8 with 1 N sodium hydroxide. Then it was purified via reverse phase HPLC using 2 liter of water followed by 5% acetonitrile in water. Water was then removed through concentrate in vacuo and 18 mg (5%) of product was collected.

reactant | 2-Formyl-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid ethyl ester | 2 mmol, 480 mg | C(C)OC(=O)N1CC2=C(CC1)SC(=C2)C=O | C11H13NO3S
reactant | magnesium bromide | 2 mmol, 516 mg | [Br-].[Mg+2].[Br-]
reactant | 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 2 mmol, 770 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | phosphate | 15 ml, pH=6.5 | P(=O)([O-])([O-])[O-]
catalyst | palladium on carbon | 0.5 gram | [Pd] | Pd
solvent | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-Carboxy-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-en-6-ylidenemethyl)-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(CC1)SC(=C2)C=C2C1SC=C(N1C2=O)C(=O)O | C17H16N2O5S2
